US05095113
To a 1 l flask equipped with a mechanical stirrer, a reflux condenser, a thermometer and a gas inlet was charged 500 ml of methyl acetate and 50 g of sodium dicyanamide. At room temperature, 80 g of HCl gas was charged. After stirring for 15 minutes, 88 g of acetyl chloride was added in one portion. The reaction mixture was heated to reflux for 3 hours. It was then cooled to 10° C. and poured into 500 ml of ice water. Extraction with methyl acetate and subsequent drying and evaporation afforded 32 g of 2,4-dichloro-6-methyl-1,3,5-triazine. The yield was 37%.

reactant | methyl acetate | 500 ml | C(C)(=O)OC | C3H6O2
reactant | sodium dicyanamide | 50 g | [N-](C#N)C#N.[Na+]
reactant | HCl | 80 g | Cl | ClH
reactant | acetyl chloride | 88 g | C(C)(=O)Cl | C2H3ClO
product | 2,4-dichloro-6-methyl-1,3,5-triazine | 32 g, yield was 37% | ClC1=NC(=NC(=N1)Cl)C | C4H3Cl2N3
